US08293715B2
Synthesis of 3-(1-cyclopropyl-1-hydroxyethyl)phenol
By using 3′-hydroxyacetophenone (200 mg) and a 0.5 M solution of cyclopropylmagnesium bromide in tetrahydrofuran (8.8 ml) as starting materials, the title compound (176.6 mg) was obtained in the same manner as that of Reference Example 69.

reactant | 3′-hydroxyacetophenone | 200 mg | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | cyclopropylmagnesium bromide | C1(CC1)[Mg]Br
solvent | tetrahydrofuran | 8.8 ml | O1CCCC1 | C4H8O
product | 3-(1-cyclopropyl-1-hydroxyethyl)phenol | 176.6 mg | C1(CC1)C(C)(O)C=1C=C(C=CC1)O | C11H14O2
